2136-05-30 07:55:00 Physician Resident Progress Note
Chief Complaint: CP/SOB
   24 Hour Events:
   No major events overnight
   Hep gtt continued
   Allergies:
   Zestril (Oral) (Lisinopril)
   Unknown;
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing and chest discomfort a little better today, still [**6-13**].  Pain
   mostly on right, pleuritic, however now moving to left as well.  No SOB
   at rest.
   Flowsheet Data as of  [**2136-5-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 81 (76 - 82) bpm
   BP: 162/98(114) {145/92(106) - 183/132(146)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
             Total In:
                                                                     21 mL
                                                                  1,547 mL
   PO:
             400 mL
   TF:
   IVF:
                                                                     21 mL
                                                                  1,147 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    635 mL
   Urine:
                                                                     80 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                    912 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: none
   Physical Examination
   Lying in bed, very pleasant, appearing comfortable
   JVD to ~10cm
   Regular with occasional premature beats, no m/r/g
   Lungs with few rales R base, no wheezing
   Abd soft nontender +bowel sounds
   Extrem with tr bilateral edema, symmetric, nontender. Warm with
   palpable pulses
   Labs / Radiology
   225 K/uL
   9.2 g/dL
   125 mg/dL
   0.8 mg/dL
   23 mEq/L
   2.8 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   27.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-30**]  04:48 AM
   WBC
   9.7
   Hct
   27.0
   Plt
   225
   Cr
   0.8
   TropT
   0.05
   Glucose
   125
   Other labs: PT / PTT / INR:14.7/97.9/1.3, CK / CKMB /
   Troponin-T:73//0.05, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This 76F with h/o endometrial CA presents with CP and found to have
   large bilateral PEs.
   .
   * Submassive PE
   No prior history of clot, but at increased risk with h/o endometrial CA
   and obesity. Hemodynamically stable, however evidence of cardiac strain
   given both tropn and BNP elevated (no recent priors), however trop now
   trending down with flat CK and MB.
   - Continue IV heparin, consider changing to lovenox if no procedure
   needed
   - Start warfarin this evening if no need for IVC filter (see below)
   - Check TTE
   - Check LENIs to eval for possible need for retrievable filter
   - Standing tylenol with breakthrough MSIR for pain control, uptitrate
   if needed
   - Make Gyn/Onc aware of this event given that she may need close f/u to
   rule out recurrent CA.
   .
   * Anemia:  Hct trended down to 27 (from 31) this am, baseline appears
   to be in low 30s. No evidence of bleeding, however is on heparin.
   Previously treated with iron.
   - Cont. to follow closely
   .
   * Hypernatremia
   - Resolved
   .
   * Fever, low grade
   Probably due to large PEs
   - Follow clinically, UA without pyuria no convincing evidence of pna
   .
   * Hypertension
   Likely exacerbated by current chest pain.
   - Continue home losartan, HCTZ
   - Restart BB
   - Will hold nitrates due to concern for dropping preload
   .
   * OSA
   - Continue home CPAP
   .
   * Asthma
   - Continue home salmeterol and albuterol prn
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2136-5-29**] 10:24 PM
   22 Gauge - [**2136-5-30**] 12:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: No CPR, would want intubation if temporary
   Disposition:ICU for now, to floor in afternoon once studies performed

2136-05-30 08:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - VSS since admit
   Allergies:
   Zestril (Oral) (Lisinopril)
   Unknown;
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-5-30**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 85 (76 - 85) bpm
   BP: 161/97(111) {145/92(106) - 183/132(146)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
             Total In:
                                                                     21 mL
                                                                  1,932 mL
   PO:
             640 mL
   TF:
   IVF:
                                                                     21 mL
                                                                  1,292 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    785 mL
   Urine:
                                                                     80 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -859 mL
                                                                  1,147 mL
   Respiratory support
   O2 Delivery Device: 4L Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese,
   extraordinarily [**Last Name (un) 6254**]
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   225 K/uL
   125 mg/dL
   0.8 mg/dL
   23 mEq/L
   2.8 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
                                    27.0
                                      %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-30**]  04:48 AM
   WBC
   9.7
   Hct
   27.0
   Plt
   225
   Cr
   0.8
   TropT
   0.05
   Glucose
   125
   Other labs: PT / PTT / INR:14.7/97.9/1.3, CK / CKMB /
   Troponin-T:73//0.05, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Pro-BNP: 6700
   CT scan (PE prot): [**5-29**]   b/l PE (submassive)
   Assessment and Plan
   76 yo obese and relatively sedentary female with hx of endometrial CA
   ([**2133**]) thought to be in remission and now with submassive PE without
   hemodynamic compromise
   > PE: submassive by appearance without hemodynamic compromise. No
   obvious inciting event although she does have this history of cancer
   which raises the question of cancer recurrence and underlying
   obesity/sleep apnea.   She does have an elevated Pro-BNP and mild trop
   leak. For now the most reasonable strategy would be to cont Hep gtt and
   eval for lower ext clot burden
   - Cont Hep gtt, with plan to start coumadin this PM
   - TTE to eval right heart  -  TR with mild hypokinesis and mod PA syst
   hypertension, consistent with RC overload
   - LENI and if + consider filter
   - touch base with gyn-onc re: ? recurrence of malignancy
   - pain control with morphine
   > OSA: cont home CPAP
   > Hypokalemia: replete lytes
   > HTN: cont home meds restart metop, with hx of clean cath in [**2133**]
   (also with trop leak at that time). Goal SBP < 160 mmHg
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Reg diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-5-29**] 10:24 PM
   22 Gauge - [**2136-5-30**] 12:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if remains stable and LENI neg
   Total time spent: 45 minutes

2136-06-01 07:32:00 Physician Resident Progress Note
Chief Complaint: CP/SOB
   24 Hour Events:
   - Cont. to be SOB with minimal exertion and intermittantly tachycardic
   - Warfarin started
   - BB uptitrated
   History obtained from Family / Friend
   Allergies:
   History obtained from Family / FriendZestril (Oral) (Lisinopril)
   Unknown;
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2136-5-31**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain under better control, breathing more comfortable
   Flowsheet Data as of  [**2136-6-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 94 (82 - 103) bpm
   BP: 172/92(111) {126/70(87) - 172/104(116)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
             Total In:
                                                                  1,781 mL
                                                                    310 mL
   PO:
                                                                  1,460 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    321 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    760 mL
   Urine:
                                                                  1,990 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Sitting in bed appears comfortable
   JVD to angle of jaw
   Regular S1 S2 no m/r/g
   Lungs with few rales at bases +bilateral wheezes
   Abd obese soft nontender +bowel sounds
   Extrem warm symmetric no edema or tenderness
   Labs / Radiology
   291 K/uL
   10.8 g/dL
   109 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   111 mEq/L
   146 mEq/L
   32.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-30**]  04:48 AM
                             [**2136-5-30**]  06:00 PM
                             [**2136-5-31**]  12:57 AM
                             [**2136-6-1**]  02:28 AM
   WBC
   9.7
   10.5
   9.7
   Hct
   27.0
   30.2
   32.4
   Plt
   [**Telephone/Fax (3) 6299**]
   Cr
   0.8
   1.0
   1.0
   1.0
   TropT
   0.05
   Glucose
   125
   150
   125
   109
   Other labs: PT / PTT / INR:14.0/65.1/1.2, CK / CKMB /
   Troponin-T:73//0.05, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   [**5-31**] CXR
   FINDINGS: As compared to the previous radiograph, the size of the
   cardiac
   silhouette has minimally increased. There is also a minimal increase in
   intrathoracic fluid content, however there are no overt signs of
   pulmonary
   edema. No evidence of pleural effusions. No focal parenchymal opacities
   suggesting pneumonia.
   Assessment and Plan
   This 76F with h/o endometrial CA presents with CP and found to have
   large bilateral PEs.
   .
   * Submassive PE
   No prior history of clot, but at increased risk with h/o endometrial CA
   and obesity. Hemodynamically stable, however evidence of RH strain on
   TTE, in addition both tropn and BNP elevated (no recent priors),
   however trop now trending down with flat CK and MB. Echo with evidence
   of RV HK
   - Continue IV heparin, consider changing to lovenox
   - Continue warfarin until INR therapeutic x2d
   - Will hold on filter given negative LENIs
   - Standing tylenol with breakthrough MSIR for pain control, uptitrate
   if needed
   - Make Gyn/Onc aware of this event given that she may need close f/u to
   rule out recurrent CA.
   - Repeat TTE as outpt 4-6 weeks
   .
   * Anemia:  Hct trended down to 27 (from 31) yesterday, baseline appears
   to be in low 30s. No evidence of bleeding, however is on heparin.
   Previously treated with iron.  Hct better today at 30.
   - Cont. to follow closely
   .
   * Fever, low grade
   Probably due to large PEs
   - Follow clinically, UA without pyuria no convincing evidence of pna
   .
   * Hypernatremia
   - Encourage PO, follow Na. Increased insensible losses with low grade
   temps, tachypnea
   .
   * Hypertension
   Likely exacerbated by current chest pain.
   - Continue home losartan, HCTZ, BB
   - Will hold nitrates due to concern for dropping preload
   - Pain control
   .
   * OSA
   - Continue home CPAP
   .
   * Asthma
   - Continue home salmeterol and albuterol prn
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2136-5-29**] 10:24 PM
   22 Gauge - [**2136-5-30**] 12:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) patient ok with short term
   intubation if needed
   Disposition:ICU

2136-06-01 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Zestril (Oral) (Lisinopril)
   Unknown;
   Norvasc (Oral) (Amlodipine Besylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2136-5-31**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-6-1**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 94 (82 - 103) bpm
   BP: 172/92(111) {126/70(87) - 172/104(116)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 90.1 kg
             Total In:
                                                                  1,781 mL
                                                                    313 mL
   PO:
                                                                  1,460 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    321 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    760 mL
   Urine:
                                                                  1,990 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                   -448 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), JVP elevated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   291 K/uL
   109 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   111 mEq/L
   146 mEq/L
   32.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2136-5-30**]  04:48 AM
                             [**2136-5-30**]  06:00 PM
                             [**2136-5-31**]  12:57 AM
                             [**2136-6-1**]  02:28 AM
   WBC
   9.7
   10.5
   9.7
   Hct
   27.0
   30.2
   32.4
   Plt
   [**Telephone/Fax (3) 6299**]
   Cr
   0.8
   1.0
   1.0
   1.0
   TropT
   0.05
   Glucose
   125
   150
   125
   109
   Other labs: PT / PTT / INR:14.0/65.1/1.2, CK / CKMB /
   Troponin-T:73//0.05, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   76 yo obese and relatively sedentary female with hx of endometrial CA
   ([**2133**]) thought to be in remission and now with submassive PE without
   hemodynamic compromise and evidence of RV strain on TTE.
    > PE: submassive by appearance without hemodynamic compromise. No
   obvious inciting event although she does have this history of cancer
   which raises the question of cancer recurrence and underlying
   obesity/sleep apnea.   She does have an elevated Pro-BNP and mild trop
   leak. For now the most reasonable strategy would be to cont Hep gtt and
   eval for lower ext clot burden. Not surprisingly there is some evidence
   of RV vol/pressure overload. I would still favor a strategy which uses
   only Heparin The role for lytics in this case is not clear as data
   indicate quicker resolution of underlying RV dysfunction with the use
   of lytics but no overall change to mortality (plus the increased risl
   of bleeding with lytics).
   - Enoxaparin and coumadin bridge today: 5 mg coumadin
   - LENI (-), no role for filter.
   - touch base with gyn-onc re: ? recurrence of malignancy
   - pain control with morphine and standing Tylenol.
    > Anemia: ? anemia of chronic disease with stably low Hct (30).
   - repeat Fe studies
   > OSA: cont home CPAP
    > HTN: cont home metop, with hx of clean cath in [**2133**] (also with trop
   leak at that time). Goal SBP < 160 mmHg
   > Arrythmia: check 12 lead ECG, could be PAC
s vs AFib
   - check electrolyes
   - up titrate metop to tid
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-5-29**] 10:24 PM
   22 Gauge - [**2136-5-30**] 12:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes